US09193707B2
5. Synthesis of 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid
Into a 100-mL round-bottom flask, was placed methyl 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate (2 g, 4.83 mmol, 1.00 equiv) and tetrahydrofuran (30 mL). This was followed by the addition of a solution of sodium hydroxide (1 g, 25.00 mmol, 5.18 equiv) in water (20 mL) dropwise with stirring. The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 100 mL of water. The resulting solution was extracted with 2×50 mL of dichloromethane and the organic layers combined. The pH value of the solution was adjusted to 5 with hydrogen chloride (1 M). The resulting solution was extracted with 3×100 mL of dichloromethane. The solids were filtered out. The mixture was concentrated under vacuum. This resulted in 1 g (52%) of 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 3.77 (s, 3H), 3.93-3.95 (d, 9H), 4.04 (d, 3H), 7.49 (s, 1H), 7.78 (s, 1H), 7.89 (s, 2H); MS (ESI) m/z 401 ([M+H]+).

reactant | methyl 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylate | 4.83 mmol, 2 g, 1.00 equiv | COC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OC | C21H22N2O7
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 25.00 mmol, 1 g, 5.18 equiv | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 6,7-dimethoxy-2-(3,4,5-trimethoxyphenyl)quinazoline-4-carboxylic acid | COC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C(=C1)OC)OC)OC)C(=O)O | C20H20N2O7
